US07622583B2
(3-Amino-5-chloro-pyridin-2-yl)-(2-chloro-phenyl)-methanone was prepared from 2-chlorobenzaldehyde and 5-chloro-2-iodo-3-nitro-pyridine in three steps according to the general procedure for synthesis of 3-Amino-5-chloro-pyridin-2-yl aryl ketones. MS m/z: 267.0 (M+H).

reactant | 2-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 5-chloro-2-iodo-3-nitro-pyridine | ClC=1C=C(C(=NC1)I)[N+](=O)[O-] | C5H2ClIN2O2
product | (3-Amino-5-chloro-pyridin-2-yl)-(2-chloro-phenyl)-methanone | NC=1C(=NC=C(C1)Cl)C(=O)C1=C(C=CC=C1)Cl | C12H8Cl2N2O
